US04673746
The Friedel-Crafts reaction described in the foregoing examples is repeated with 2,3-dichloroanisole, 3--fluorobenzoyl chloride and AlCl3 to yield 2,3-dichloro-4-hydroxy-3'-fluorobenzophenone.

reactant | 2,3-dichloroanisole | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | 3--fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
product | 2,3-dichloro-4-hydroxy-3'-fluorobenzophenone | ClC1=C(C(=O)C2=CC(=CC=C2)F)C=CC(=C1Cl)O | C13H7Cl2FO2
